US08703768B2
Step 5: 3-(Pyrimidin-5-ylamino)-6-pyrrolidin-1-yl-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 3-(pyrimidin-5-ylamino)-6-pyrrolidin-1-yl-pyrazine-2-carboxylic acid (30 mg, 94 μmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (19 mg, 123 μmol) according to the method described in example 64, step 6 after purification by preparative HPLC using an acetonitrile/water gradient as yellow solid (10 mg, 26%).

reactant | 3-(pyrimidin-5-ylamino)-6-pyrrolidin-1-yl-pyrazine-2-carboxylic acid | 94 μmol, 30 mg | N1=CN=CC(=C1)NC=1C(=NC(=CN1)N1CCCC1)C(=O)O | C13H14N6O2
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 123 μmol, 19 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 3-(Pyrimidin-5-ylamino)-6-pyrrolidin-1-yl-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)N1CCCC1 | C19H22N10O2
